US04847273
A solution of 7.5 g (about 0.04 mol) of N-isopropyl-2-oxopropanesulfonamide and 6.0 g (0.04 mol) of 3-nitrobenzaldehyde in 40 ml of benzene is treated with 0.16 ml of piperidine and 0.48 ml of glacial acetic acid in an analogous manner to that described in Example 1. The oily crude product is triturated with ether, whereby crystallization occurs. There are obtained 2.5 g of α-acetyl-N-isopropyl-3-nitrostyrenesulfonamide in the form of colorless crystals, m.p. 153°-157°.

reactant | N-isopropyl-2-oxopropanesulfonamide | about 0.04 mol, 7.5 g | C(C)(C)NS(=O)(=O)CC(C)=O | C6H13NO3S
reactant | 3-nitrobenzaldehyde | 0.04 mol, 6.0 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | piperidine | 0.16 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.48 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | α-acetyl-N-isopropyl-3-nitrostyrenesulfonamide | 2.5 g | C(C)(=O)C(=CS(=O)(=O)NC(C)C)C1=CC(=CC=C1)[N+](=O)[O-] | C13H16N2O5S
